US07291736B2
Preparation of 3-(2-dimethylaminoethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
A solution of N-[2-(dimethylamino)ethyl]pyridine-2,3-diamine (1.49 g, 8.3 mmol) in DMF is treated with carbonyldiimidazole (CDI) (2.01 g, 12.4 g) under nitrogen, stirred at 75-80° C. for 24 h, cooled to room temperature and concentrated in vacuo. The resultant residue is chromatographed, eluting with 10:90 conc. NH4OH:ethanol to afford a solid which is triturated with ethanol:ethyl acetate to afford the title compound as a tan solid, 0.387 g, mp 141-142° C., identified by NMR and mass spectral analyses.

reactant | N-[2-(dimethylamino)ethyl]pyridine-2,3-diamine | 8.3 mmol, 1.49 g | CN(CCNC1=NC=CC=C1N)C | C9H16N4
reactant | carbonyldiimidazole | 2.01 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(2-dimethylaminoethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | CN(CCN1C(NC=2C1=NC=CC2)=O)C | C10H14N4O
